US06440995B1
2-{[2-(4-Methoxy-phenyl)-quinolin-4-yl]-methyl-amino}-ethanol hydrochloride
The title compound, m.p. 201-204° C., and MS: m/e=309.2 (M+H+), was prepared from 4-chloro-2-(4-methoxy-phenyl)-quinoline and 2-(Methylamino)-ethanol.

reactant | 4-chloro-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | 2-(Methylamino)-ethanol | CNCCO | C3H9NO
product | 2-{[2-(4-Methoxy-phenyl)-quinolin-4-yl]-methyl-amino}-ethanol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)N(CCO)C | InChI=1S/C19H20N2O2.ClH/c1-21(11-12-22)19-13-18(14-7-9-15(23-2)10-8-14)20-17-6-4-3-5-16(17)19;/h3-10,13,22H,11-12H2,1-2H3;1H
